US06872726B2
4-Aminonaphthalen-1-ol hydrochloride (50.0 g, 0.256 mol) was suspended in 500 mL THF under N2. Triethylamine (39.2 mL, 0.281 mol) was added dropwise from an addition funnel. The reaction was stirred for 30 min. Boc anhydride (55.79 g, 0.256 mol), dissolved in 60 mL THF was added dropwise. The reaction was heated to reflux for 5 h and then cooled first to room temperature first and then in a dry ice-acetone bath. The triethylamine HCl salt was filtered off and the precipitate was washed with small portions of THF. The filtrate was concentrated in vacuo leaving a thick brown oil. About 500 mL dichloroethane was added tom the oil and the solution was treated with a small amount of activated charcoal and then filtered through diatomaceous earth, using cold dichloroethane to wash the cake. The filtate was concentrated in vacuo providing the desired Boc-aminonaphthol product as a purple-browish solid (50 g).

reactant | 4-Aminonaphthalen-1-ol hydrochloride | 0.256 mol, 50.0 g | Cl.NC1=CC=C(C2=CC=CC=C12)O
reactant | Triethylamine | 0.281 mol, 39.2 mL | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 0.256 mol, 55.79 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloroethane | 500 mL | ClC(C)Cl | C2H4Cl2
reactant | charcoal | C | CH4
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Boc-aminonaphthol | 50 g | C(=O)(OC(C)(C)C)C=1C(=C(C2=CC=CC=C2C1)O)N | C15H17NO3
